US09371320B2
B) 2-(4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)phenoxy)acetamide
To a solution of 1-cyclopentyl-3-(4-hydroxyphenyl)-4-methoxy-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile (120 mg) and sodium hydride (dispersion in mineral oil, 22 mg) in DMF (3.0 mL) was added 2-bromoacetamide (120 mg) at 0° C., and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (37 mg).

reactant | 1-cyclopentyl-3-(4-hydroxyphenyl)-4-methoxy-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 120 mg | C1(CCCC1)N1C=C(C=2C(=NC=C(C21)C#N)OC)C2=CC=C(C=C2)O | C20H19N3O2
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | 2-bromoacetamide | 120 mg | BrCC(=O)N | C2H4BrNO
reactant | water | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 2-(4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)phenoxy)acetamide | 37 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=CN2C2CCCC2)C2=CC=C(OCC(=O)N)C=C2 | C22H22N4O3
